* forward-path AC: frozen choppers straight, signal at gates
.lib /Users/noah/.volare/volare/sky130/versions/0fe599b2afb6708d281543108caf8310912f54af/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.temp 27
.include eeg_tg_lowq.spice
.include eeg_fd_ota_core_soft.spice
.include eeg_bias_gen.spice
.include eeg_fd_ota_chopped_full2nodsl.spice
.include eeg_pseudo_res.spice
.param VDD=1.80 VCM=0.9 TCHOP=125u
VDD_SRC VDD18 0 {VDD}
VREF VCM_REF 0 {VCM}
VPHI PHI 0 {VDD}
VPHIB PHIB 0 0
BNPHI NPHI 0 V={VDD}-v(PHI)
BNPHIB NPHIB 0 V={VDD}-v(PHIB)
VSIGP SIGP 0 DC {VCM} AC 0.5 0
VSIGN SIGN 0 DC {VCM} AC 0.5 180
CINP SIGP INP 32p
CINN SIGN INN 32p
CFP OUTN INP 1p
CFN OUTP INN 1p
XPRP INP VCM_REF eeg_pseudo_res
XPRN INN VCM_REF eeg_pseudo_res
XAFE INP INN VCM_REF OUTP OUTN PHI NPHI PHIB NPHIB PHI NPHI PHIB NPHIB VDD18 0 eeg_fd_ota_chopped_full2
CLOADP OUTP 0 5p
CLOADN OUTN 0 5p
.control
set noaskquit
ac dec 50 0.01 10Meg
let g = mag(v(OUTP)-v(OUTN))
wrdata ../results/ac_fwd.csv g
quit
.endc
.end
